US08304415B2
1,2-bis-(4-methylbenzamido)-anthraquinone (CC-04)
1,2-diaminoanthraquinone (0.92 g, 4 mmole) was dissolved in anhydrous tetrahydrofuran (30 ml). To the solution, pyridine (0.5 ml), and 4-toluoyl chloride (1.6 ml, 12 mmole) were added successively at room temperature and the mixture was stirred for 5 to 10 minutes. Then, the mixture was stirred within a mini-reactor in an oil bath at temperature of 120-130° C. for 3 hours. After the completion of the reaction, the mixture was filtered, and the filtrate was concentrated by reduced pressure concentrator (such as Vacuum Evaporator). The residue was extracted with ethyl acetate for several times. The extract was dried on magnesium sulfate, and concentrated under reduced pressure. The crude product was washed with ethyl acetate/hexane. Finally, the crude product was recrystallized in hot ethanol to obtain a drab compound CC-04. Mol. Wt.: 474.5067 (C30H22N2O4); Rf: 0.51 (ethyl acetate:n-hexane=1:2); Yield: 62%; Mp.: 227-229° C. (EtOH); HRMS (EI) m/z: calcd [M]+, 474.1580 (C30H22N2O4+); found, 474.1572; 1H-NMR (300 MHz, DMSO-d6) δ (ppm): 2.36 (s, 3H, —CH3), 2.42 (s, 3H, —CH3), 7.33 (d, J=8.4 Hz, 2H, Ar—H), 7.42 (d, J=8.4 Hz, 2H, Ar—H), 7.79 (d, J=8.1 Hz, 2H, Ar—H), 7.90-7.93 (m, 2H, Ar—H), 8.01 (d, J=8.1 Hz, 1H, Ar—H), 8.13-8.16 (m, 1H, Ar—H), 8.18-8.20 (m, 1H, Ar—H), 8.42 (d, J=8.7 Hz, 1H, Ar—H), 10.06 (s, 1H, Ar—NH—), 10.90 (s, 1H, Ar—NH—); 13C-NMR (300 MHz, DMSO-d6) δ (ppm): 20.37, 20.48, 125.02, 125.90, 126.61, 126.90, 127.45, 128.88, 128.92, 129.28, 129.70, 129.99, 130.39, 130.57, 131.79, 133.85, 134.00, 134.14, 138.94, 142.12, 142.20, 164.50 (NCO), 165.85 (NCO), 181.21 (CO), 183.84 (CO).

reactant | 1,2-diaminoanthraquinone | 4 mmole, 0.92 g | NC1=C(C=CC=2C(C3=CC=CC=C3C(C12)=O)=O)N | C14H10N2O2
reactant | pyridine | 0.5 ml | N1=CC=CC=C1 | C5H5N
reactant | 4-toluoyl chloride | 12 mmole, 1.6 ml | C1(=CC=C(C=C1)C(=O)Cl)C | C8H7ClO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | EtOH | CCO | C2H6O
solvent | n-hexane | CCCCCC | C6H14
product | 1,2-bis-(4-methylbenzamido)-anthraquinone | Yield: 62% | CC1=CC=C(C(=O)NC2=C(C=CC=3C(C4=CC=CC=C4C(C23)=O)=O)NC(C2=CC=C(C=C2)C)=O)C=C1 | C30H22N2O4
